US07790290B2
1-1. Synthesis of Monoisobutylphthalic Acid
148.2 g of anhydrous phthalic acid and the molar equivalent 74.2 g of isobutyl alcohol were added to a 500 ml glass round-bottomed flask equipped with stirring blades, thermometer and Dimroth condenser, heated while slowly stirring, and after the generated heat at about 80° C. wore off, raised to a temperature of 140° C., which was maintained for 2 hours. The mixture was subsequently cooled to 60° C. The acid value (number of mg of KOH necessary to neutralize 1 g of a sample) of the reaction solution was 257.5. Since the acid value for the case where the reaction is 100% complete is 252.4, the reaction rate was computed to be 98%.

reactant | phthalic acid | 148.2 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | KOH | [OH-].[K+]
solvent | isobutyl alcohol | 74.2 g | C(C(C)C)O | C4H10O
product | Monoisobutylphthalic Acid | C(C(C)C)C1=C(C(C(=O)O)=CC=C1)C(=O)O | C12H14O4
